US07732435B2
7-(4-Chlorophenyl)-6-isopropyl-1H-4,5-dioxa-1-aza-phenanthrene-2,8-dione
A mixture of 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one (250 mg, 0.75 mmol), CDCl3 (1 ml), saturated NaHCO3 solution (1.5 ml) and bromoacetylbromide (169 mg, 0.85 mmol) is stirred vigorously at room temperature for 5 min and then passed through an Isolute™ phase separator to separate the organic phase, which is then treated with dimethylformamide (1 ml) and K2CO3 (115 mg, 0.85 mmol) and heated in a microwave at 90° C. for 15 min. The reaction mixture is partitioned between CH2Cl2 and water. The organic phase is washed with water and brine, dried (MgSO4) and concentrated in vacuo, followed by crystallisation from methanol. The product is partitioned between ethyl acetate and water to remove traces of dimethylformamide. The organic phase is dried (MgSO4), concentrated in vacuo and crystallised from methanol to yield the title compound.

reactant | 7-amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | 0.75 mmol, 250 mg | NC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO3
reactant | NaHCO3 | 1.5 ml | C(=O)(O)[O-].[Na+]
reactant | bromoacetylbromide | 0.85 mmol, 169 mg | BrCC(=O)Br | C2H2Br2O
reactant | K2CO3 | 0.85 mmol, 115 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-(4-Chlorophenyl)-6-isopropyl-1H-4,5-dioxa-1-aza-phenanthrene-2,8-dione | ClC1=CC=C(C=C1)C1=C(OC2=C3OCC(NC3=CC=C2C1=O)=O)C(C)C | C20H16ClNO4
